US07678784B2
Step A: Methyl 3-(ethoxyimino)-3-(4-hydroxyphenyl)propanoate
A mixture of methyl 3-(4-hydroxyphenyl)-3-oxopropanoate (1 g) and EtONH2.HCl (600 mg) in methanol (10 mL) was heated at 65° C. for 2 h. Methanol was removed in vacuo, and saturated sodium bicarbonate was added to the residue. The aqueous solution was extracted with ethyl acetate (×4), and the combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and filtered. The filtrate was evaporated in vacuo to give the title compound as a colorless oil, which was used directly in Step B. HPLC retention time: 1.51 min (method A). MS (ESI) (M+H)+ 238.09.

reactant | methyl 3-(4-hydroxyphenyl)-3-oxopropanoate | 1 g | OC1=CC=C(C=C1)C(CC(=O)OC)=O | C10H10O4
reactant | EtONH2.HCl | 600 mg | C(C)ON.Cl
solvent | methanol | 10 mL | CO | CH4O
product | Methyl 3-(ethoxyimino)-3-(4-hydroxyphenyl)propanoate | C(C)ON=C(CC(=O)OC)C1=CC=C(C=C1)O | C12H15NO4
